US05455363
Z-Gln(Mtt)OH
A mixture of 140.14 g Z-Gln-OH (0.5 mole) and 274.4 g 4-methyltriphenylcarbinol (1 mole) in 1.5 l acetic acid and 93.4 ml acetic anhydride (1 mole) is stirred at room temperature for 7 minutes. Upon addition of 2.5 ml concentrated sulfuric acid the temperature is raised to 50° C.; a clear, yellow solution results after 15 minutes. After 21/2 hrs the solution is allowed to cool and poured into 5 l ice-cold water. The precipitate formed is filtered off, washed thoroughly with water and dissolved in 1 l ethylacetate. The resulting solution is washed with saturated brine, dried over sodium sulfate and concentrated under reduced pressure to an oil (400 ml) which crystallized on addition of diisopropylether.

reactant | Z-Gln-OH | 0.5 mole, 140.14 g | N([C@@H](CCC(N)=O)C(=O)O)C(=O)OCC1=CC=CC=C1 | C13H16N2O5
reactant | 4-methyltriphenylcarbinol | 1 mole, 274.4 g | CC1=CC=C(C=C1)C(C2=CC=CC=C2)(C3=CC=CC=C3)O | C20H18O
reactant | acetic anhydride | 1 mole, 93.4 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sulfuric acid | 2.5 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 1.5 l | C(C)(=O)O | C2H4O2
product | Z-Gln(Mtt)OH | N([C@@H](CCC(NC(C1=CC=C(C)C=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)O)C(=O)OCC1=CC=CC=C1 | C33H32N2O5
